US07807671B2
To sodium hydride (0.1 g) taken in a dry 100 ml 3-necked round bottom flask cooled to 0° C. dry DMF (2 ml) was added under nitrogen. To the above mixture compound tert-butyl 4-(3-phenyl-1H-pyrazol-4-yl)piperazine-1-carboxylate (0.5 g) in DMF (2 ml) was slowly added and allowed to stir at 0° C. for 30 minutes. 2-Chloromethyl pyridine (300 mg) in DMF (1 ml) was slowly added to the above mixture at 0°C. The reaction mixture was allowed to stir at room temperature for overnight and quenched with ice. The product was extracted with ethyl acetate (3×10 ml). The combined organic layer was washed with water, brine, dried over sodiumsulphate and concentrated under reduced pressure. The resulting crude product was purified by column chromatography using 6% ethyl acetate in hexane, to afford tert-butyl 4-(3-phenyl-1-(pyridin-2-ylmethyl)-1H-pyrazol-4-yl)piperazine-1-carboxylate as half white solid.

reactant | sodium hydride | 0.1 g | [H-].[Na+]
reactant | tert-butyl 4-(3-phenyl-1H-pyrazol-4-yl)piperazine-1-carboxylate | 0.5 g | C1(=CC=CC=C1)C1=NNC=C1N1CCN(CC1)C(=O)OC(C)(C)C | C18H24N4O2
reactant | 2-Chloromethyl pyridine | 300 mg | ClCC1=NC=CC=C1 | C6H6ClN
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | tert-butyl 4-(3-phenyl-1-(pyridin-2-ylmethyl)-1H-pyrazol-4-yl)piperazine-1-carboxylate | C1(=CC=CC=C1)C1=NN(C=C1N1CCN(CC1)C(=O)OC(C)(C)C)CC1=NC=CC=C1 | C24H29N5O2
